US08022223B2
Step D: Preparation of tert-butyl 4-(3-bromo-2-oxopropyl)piperidine-1-carboxylate:
To a solution of tert-butyl 4-(2-(trimethylsilyloxy)allyl)piperidine-1-carboxylate (6.43 g, 20.5 mmol) in THF (100 mL) at 0° C. was added sodium bicarbonate (2.58 g, 30.7 mmol) followed by 1-bromopyrrolidine-2,5-dione (3.65 g, 20.5 mmol). Warmed to ambient temperature and stirred 90 minutes. Partitioned between ether (150 mL) and saturated sodium bicarbonate. The aqueous layer was reextracted with ether (100 mL). The combined organic layers were washed with saturated bicarbonate, brine, dried, and concentrated to afford the title compound (7.2 g, 110% yield) as a yellow oil. Purity was 85% with the major impurity being succinimide. The crude material was used in the next step.

reactant | tert-butyl 4-(2-(trimethylsilyloxy)allyl)piperidine-1-carboxylate | 20.5 mmol, 6.43 g | C[Si](OC(CC1CCN(CC1)C(=O)OC(C)(C)C)=C)(C)C | C16H31NO3Si
reactant | sodium bicarbonate | 30.7 mmol, 2.58 g | C([O-])(O)=O.[Na+]
reactant | 1-bromopyrrolidine-2,5-dione | 20.5 mmol, 3.65 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-bromo-2-oxopropyl)piperidine-1-carboxylate | 7.2 g, 110% yield | BrCC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H22BrNO3
